US04975438
A solution of freshly distilled diisopropylamine (193.2 mL) in dry tetrahydrofurane (1 L) under argon was cooled to -5° C. with an acetone-dry ice bath. Anhydrous conditions were maintained throughout the reaction. A 1.6M solution of n-butyl lithium in hexane (862 mL) was added at such a rate that the reaction temperature did not exceed -5° C. After the addition was complete, the solution was stirred at 5° C. for 15 minutes. Then it was cooled to -78° C. and acetaldehyde N-tert- butylimine (88.5 mL) was added dropwise over 10 minutes. After stirring at -78° C. for 30 minutes. diethyl chlorophosphonate (101.2 mL) was added slowly while maintaining the reaction temperature below -65° C. and the yellow solution was stirred at -78° C. for 1 hour. The cooling bath was then removed and the mixture was allowed to warm to -10° C. over 45 minutes. Benzophenone (109.3 g) was added via a Gooch tube, and the mixture was then stirred at ambient temperature overnight. After the solvents were removed in vacuo. The residue was taken up in a solution of oxalic acid dihydrate (175 g) in water (1.5 L) and toluene (1.5 L) was added. The mixture was stirred vigorously under argon overnight. The layers were separated and the organic phase was washed in turn with 5% oxalic acid, brine, saturated sodium bicarbonate and brine. The aqueous layers were backwashed with toluene (500 mL), and the combined organic extracts were dried (MgSO4), charcoaled and concentrated to ~ 250 mL. The concentrate was passed through a short column of silica gel (500 g) made up in dichloromethane, and the product was eluted with the same solvent (7×400 mL fractions). The appropriate fractions were combined and evaporated and the residue was dissolved in warm hexane (1.2 L). The gently stirred solution was cooled slowly to 5° C. and the resulting crystalline solid was recovered by filtration to yield 109.3 g of 3,3-diphenyl-2-propenal, mp 45°-46.5° C. Concentration of the mother liquors furnished a second crop of impure 3,3-diphenyl-2-propenal which after two recrystallizations from hexane gave an additional 10.1 g of product. mp 44.5°-46° C.

reactant | diisopropylamine | 193.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | acetaldehyde N-tert- butylimine | 88.5 mL | C(C)(C)(C)N=CC | C6H13N
reactant | diethyl chlorophosphonate | 101.2 mL | ClP(OCC)(OCC)=O | C4H10ClO3P
reactant | tetrahydrofurane | 1 L | O1CCCC1 | C4H8O
solvent | hexane | 862 mL | CCCCCC | C6H14
product | 3,3-diphenyl-2-propenal | 109.3 g | C1(=CC=CC=C1)C(=CC=O)C1=CC=CC=C1 | C15H12O
